US05498726
To a solution of physostigmine (290 g) in dry THF (2.3 L) at 15° C. under a nitrogen atmosphere was treated with KOtBu (126.4 g), added over 0.05 hour. The mixture was kept at 15° C. for 0.5 hour, then treated with glacial HOAc (64.1 mL, 1 equiv., pH=10) to give a mixture containing physostigmine (II) and eseroline (III) in a 1/99 HPLC ratio. Addition of 1,1'-carbonyldiimidazole (195.8 g, 1.15 equiv) in 10 (0.1 equiv.) and 3 (0.05 equiv.) portions at -30° C. over 2 hours gave the following HPLC ratios of imidazolecarbonyl intermediate (V) and eseroline after 1.0, 1.1 and 1.15 equiv.: 92/8, 98/2 and 99/1. Addition of glacial HOAc (482 mL, 8 equiv., pH-5) followed by 1,2,3,4-tetrahydroisoquinoline (175 g, 1.25 equiv., added over 1.5 hours at - 10° C.) and warming to 20° C. for 15 hours gave a mixture containing (3aS-cis)- 1,2,3,3a,8,8a-hexahydro- 1,3a,8-trimethylpyrrolo-[2,3-b]indol-5-yl 3,4-dihydro-2(1H)-isoquinolinecarboxylate and eseroline in a 99/1 HPLC ratio. Addition of water (500 mL), cooling to -10° C., partial neutralization to pH=8 with 50% NaOH (471 g, 0.7 equiv based in HOAc), concentration of the THF under 30° C., toluene extraction (1×1L and 2×0.5L) of the residue, washing with water (500 mL), 5% NaCl (500 mL) and concentration under reduced pressure at 50° C. gave 370 g of crude product. This material was further purified by silica gel chromatography using ethyl acetate/methanol to give 346 g of 99% pure product in 89% yield from physostigmine. Recrystallization from methanol/water gave 321 g of crystalline product in 99% PHLC purity and 84 % yield.

reactant | HOAc | 482 mL, 8 equiv., pH-5 | CC(=O)O | C2H4O2
reactant | 1,2,3,4-tetrahydroisoquinoline | 175 g, 1.25 equiv. | C1NCCC2=CC=CC=C12 | C9H11N
reactant | (3aS-cis)- 1,2,3,3a,8,8a-hexahydro- 1,3a,8-trimethylpyrrolo-[2,3-b]indol-5-yl 3,4-dihydro-2(1H)-isoquinolinecarboxylate | C1N(CCC2=CC=CC=C12)C(=O)OC=1C=C2[C@]3([C@@H](N(C2=CC1)C)N(CC3)C)C | C23H27N3O2
reactant | eseroline | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)O)C)C | C13H18N2O
reactant | NaOH | 471 g, 0.7 equiv | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 mL | O | H2O
product | physostigmine | 89% yield | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)OC(=O)NC)C)C | C15H21N3O2
